US08017607B2
A mixture of rac-4-{[(2S,3S,4S)-3-(4-chloro-2-fluoro-phenyl)-2-(2,3-dichloro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (88.0 mg, 0.20 mmol) and 4-isocyanato-benzoic acid methyl ester (Aldrich, 42.5 mg, 0.22 mmol) in CH2Cl2 (2 mL) was stirred at rt for 1 h. The reaction mixture was then concentrated and purified by flash column to give rac-4-{[(2S,3S,4S)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,3-dichloro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-amino}-benzoic acid methyl ester (98.6 mg, 79.9%) which was used in the next step without further purification.

reactant | (2S,3S,4S)-3-(4-chloro-2-fluoro-phenyl)-2-(2,3-dichloro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.20 mmol, 88.0 mg | ClC1=CC(=C(C=C1)[C@@]1([C@H](NC[C@H]1CC(C)(C)C)C1=C(C(=CC=C1)Cl)Cl)C#N)F | C22H22Cl3FN2
reactant | 4-isocyanato-benzoic acid methyl ester | 0.22 mmol, 42.5 mg | COC(C1=CC=C(C=C1)N=C=O)=O | C9H7NO3
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | rac-4-{[(2S,3S,4S)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,3-dichloro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-amino}-benzoic acid methyl ester | 98.6 mg, 79.9% | COC(C1=CC=C(C=C1)NC(=O)N1[C@@H]([C@@]([C@@H](C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)Cl)=O | C31H29Cl3FN3O3
